US07741321B2
A mixture of (2,2,4,4-tetrafluoro-4H-benzo[1,3]dioxin-6-yl)-methanol (6.5 g) in thionyl chloride (75 mL) was heated at reflux overnight. The resulting mixture was concentrated under vacuum. The residue was basified with aqueous saturated NaHCO3. The aqueous layer was extracted with dichloromethane (50 mL×3). The combined organic layers were dried over Na2SO4, filtrated, and concentrated under reduced pressure to give 6-chloromethyl-2,2,4,4-tetrafluoro-4H-benzo[1,3]dioxine (6.2 g), which was used directly in the next step. 1H NMR (CDCl3, 300 MHz) δ 7.65 (s, 1H), 7.61 (dd, J=2.1, 8.7 Hz, 1H), 7.15 (d, J=8.4 Hz, 1H), 4.60 (s, 2H).

reactant | (2,2,4,4-tetrafluoro-4H-benzo[1,3]dioxin-6-yl)-methanol | 6.5 g | FC1(OC2=C(C(O1)(F)F)C=C(C=C2)CO)F | C9H6F4O3
reactant | thionyl chloride | 75 mL | S(=O)(Cl)Cl | Cl2OS
product | 6-chloromethyl-2,2,4,4-tetrafluoro-4H-benzo[1,3]dioxine | 6.2 g | ClCC=1C=CC2=C(C(OC(O2)(F)F)(F)F)C1 | C9H5ClF4O2
